US06583139B1
Diethyl 2-acetamidomalonate was treated with 4-cyanobenzyl bromide and NaOEt in EtOH, to give after dilution with H2O, and isolation of the resulting precipitate, diethyl 2-acetamido-2-(4-cyanobenzyl)malonate. This product was heated in HCl, and the mixture evaporated to give 4-carboxy-D,L-phenylalanine hydrochloride [D,L-Phe(4-CO2H)-OH.HCl]. This product was treated with MeOH and HCl gas to give after evaporation, D,L-Phe(4CO2Me)-OMeHCl. This product was treated with N-(toluene-4-sulfonyl)-L-Pro-OH, BOP, and NMM in DMF, to give after aqueous workup and flash chromatography, N-(toluene-4-sulfonyl)-L-Pro-D,L-Phe(4-CO2Me)-OMe. This product was treated with NaOH in dioxane and water, to give after acidification, extraction, drying with MgSO4, filtration and evaporation the title compound as a clear oil.

reactant | Diethyl 2-acetamidomalonate | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-cyanobenzyl bromide | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | NaOEt | CC[O-].[Na+]
reactant | H2O | O | H2O
solvent | EtOH | CCO | C2H6O
product | diethyl 2-acetamido-2-(4-cyanobenzyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC=C(C=C1)C#N | C17H20N2O5
